US06048880
2,5-Dichloro-4-methylthiophene-3-carbaldehyde
To a stirred solution of 2,5-dichloro-3-methylthiophene [prepared according to the method of J. Amer. Chim. Soc., 1971, 333.] (11.8 g) in CH2Cl2 (200 mL) was added TiCL1 (37.94 g) and dichloromethyl methyl ether (12.6 g) at -10° C. After stirring for 4 hours, the reaction mixture was poured into ice-water and the whole was stirred vigorously for 30 minutes. The resulting mixture was extracted with CH2Cl2 (200 ml×1), and the organic layers was washed with saturated NaHCO3 solution(100 mL×1), brine (100 mL×1), dried over MgSO4, and concentrated in vacuo. The resulting residue was purified by distillation (bp : 140-145° C./10 mmHg) to provide the subtitle compound (11.75 g).

reactant | 2,5-dichloro-3-methylthiophene | ClC=1SC(=CC1C)Cl | C5H4Cl2S
reactant | dichloromethyl methyl ether | 12.6 g | COC(Cl)Cl | C2H4Cl2O
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Dichloro-4-methylthiophene-3-carbaldehyde | 11.75 g | ClC=1SC(=C(C1C=O)C)Cl | C6H4Cl2OS
